US08664210B2
4β-Ethylandrostan-3,6,17-trione
To a solution of 3α,17β-dihydroxy-4β-ethylandrostan-6-one and 3β-17β-dihydroxy-4β-ethylandrostan-6-one (179 mg) in DCM (6.7 ml) under N2, NMO (190 mg), TPAP (9.5 mg) and 4 Å molecular sieves (270 mg) were added. The mixture was stirred for 15 min and then SiO2 was added. The mixture was purified by flash chromatography (SiO2, n-hexane/EtOAc 70/30) to give the title compound (140 mg, 79%).

reactant | 3α,17β-dihydroxy-4β-ethylandrostan-6-one | O[C@H]1[C@@H](C2C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)=O)CC | C21H34O3
reactant | NMO | 190 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | DCM | 6.7 ml | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 9.5 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4β-Ethylandrostan-3,6,17-trione | 140 mg, 79% | C(C)[C@@H]1C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O)=O | C21H30O3
